US08097628B2
To a solution of methyl 5-methyl-6-(trifluoromethyl)-3-pyridinecarboxylate (552 mg, 2.52 mmol) in DCM (30 ml) stirred under N2 at 0° C. was added a solution of DIBAL-H (1.5 M solution in toluene, 5.04 ml, 7.56 mmol) dropwise. The reaction mixture was stirred at 0° C. for 2 h and at room temperature overnight. The reaction mixture was diluted with MeOH and concentrated under reduced pressure. The residue was treated with a 1N HCl solution and extracted twice with EtOAc. The combined organic phases were dried over anhydrous Na2SO4 and concentrated under reduced. Purification by flash chromatography using a 10 g silica gel cartridge, and mixtures of DCM and MeOH as eluent afforded [5-methyl-6-(trifluoromethyl)-3-pyridinyl]methanol (297 mg, 54%).

reactant | methyl 5-methyl-6-(trifluoromethyl)-3-pyridinecarboxylate | 2.52 mmol, 552 mg | CC=1C=C(C=NC1C(F)(F)F)C(=O)OC | C9H8F3NO2
reactant | DIBAL-H | 7.56 mmol, 1.5 M, 5.04 ml | CC(C)C[AlH]CC(C)C
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | [5-methyl-6-(trifluoromethyl)-3-pyridinyl]methanol | 297 mg, 54% | CC=1C=C(C=NC1C(F)(F)F)CO | C8H8F3NO
